US08034812B2
Production of N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide
To a mixture of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (155 mg, 0.50 mmol), 1H-pyrazole-5-carboxylic acid (84 mg, 0.75 mmol), 1-hydroxybenzotriazole (101 mg, 0.75 mmol) and N,N-dimethylformamide (5 mL) were added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (192 mg, 1.0 mmol), triethylamine (0.279 mL, 2.0 mmol), and the mixture was stirred at room temperature for 18 hr. Water was added to the reaction mixture, and the mixture was extracted with a mixed solvent of ethyl acetate/tetrahydrofuran. The organic layer was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/methanol=100/0→70/30) and crystallized from ethyl acetate to give the title compound (43 mg, yield 21%) as a white solid.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.50 mmol, 155 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 1H-pyrazole-5-carboxylic acid | 0.75 mmol, 84 mg | N1N=CC=C1C(=O)O | C4H4N2O2
reactant | 1-hydroxybenzotriazole | 0.75 mmol, 101 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 1.0 mmol, 192 mg | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 2.0 mmol, 0.279 mL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1H-pyrazole-5-carboxamide | 43 mg, yield 21% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(=O)C2=CC=NN2)C1 | C20H17N7O3
